US03952104
A mixture of 3.32 parts of 6,8-di-t-butyl-2,3-dihydro-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester and 9.9 parts of lead tetraacetate was refluxed in 30 parts of glacial acetic acid for 6.5 hours. A further 9.9 parts of lead tetraacetate were added and the reflux was continued for another 3.25 hours. After cooling, the reaction mixture was extracted with ether. The ether extract was washed with sodium bicarbonate solution and water and was dried. Evaporation of the ether gave an oil which was chromatographed on silica gel using a 9:1 mixture of toluene and ethanol for elution. This yielded 0.23 parts of 6,8-di-t-butyl-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester, m.p. 130°-131.5°C (after crystallisation from light petroleum (b.p. 40°-60°C). This product was shown by spectral means to be the same as that of Example 13.

reactant | 6,8-di-t-butyl-2,3-dihydro-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester | C(C)(C)(C)C=1C=C(C2=C(C(CC(O2)C(=O)OCC)=O)C1)C(C)(C)C | C20H28O4
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6,8-di-t-butyl-4-oxo-4H-1-benzopyran-2-carboxylic acid, ethyl ester | C(C)(C)(C)C=1C=C(C2=C(C(C=C(O2)C(=O)OCC)=O)C1)C(C)(C)C | C20H26O4
